US04053527
172.5 parts of 2-chloro-4-nitro-aniline are introduced into 180 parts of isopropanol and 300 parts of water, and 200 parts of concentrated sulfuric acid (98 percent strength by weight) are then added to the mixture. A solution of 125 parts of NaNO2 in 175 parts of water is run in at 50° C., as described in Example 1. The mixture is cooled, 400 parts of water are added and the product is filtered off. 142 parts (90% of theory) of 3-chloro-nitro-benzene, of melting point 40°-42° C., are obtained.

reactant | 2-chloro-4-nitro-aniline | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-chloro-nitro-benzene | 90% | ClC=1C=C(C=CC1)[N+](=O)[O-] | C6H4ClNO2
